US07129274B1
Preparation of N-ethylsalicylamide.
Dimethylacetamide (50 ml) and carsalam (10.00 g, 0.0613 mol) were placed into a round bottom flask fitted with nitrogen purge, cold water condenser and a magnetic stir bar. Sodium carbonate (6.50 g, 0.0613 mol) and iodoethane (4.38 ml, 0.0548 mol) were added and heating of the reaction mixture was started. Heating at 80° C. continued for 16 hours at which point heating was discontinued and the reaction mixture was allowed to cool to room temperature. The reaction mixture was then filtered through a sintered glass funnel and the filtrate was collected. Water was added to this filtrate until a white solid precipitated. The solid was isolated by filtration and placed in an Erlenmeyer flask with 2N aqueous sodium hydroxide solution (200 ml). This mixture was heated at reflux for approximately 1 hour and then stirred overnight at room temperature. This mixture was acidified with 2N aqueous hydrochloric acid and a yellow oil was noted to separate out. The reaction mixture was extracted two times with 200 ml portions of ethyl acetate. The combined ethyl acetate layers were washed two times with 200 ml portions of deionized water, dried with sodium sulfate and concentrated under vacuum. N-ethylsalicylamide was recovered as a yellow oil which, after drying overnight under vacuum, was isolated in a yield of 7.93 g.

reactant | carsalam | 0.0613 mol, 10.00 g | C=1C=CC2=C(C1)C(=O)NC(=O)O2 | C8H5NO3
reactant | Sodium carbonate | 0.0613 mol, 6.50 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodoethane | 0.0548 mol, 4.38 ml | ICC | C2H5I
reactant | sodium hydroxide | 2N, 200 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | Dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
product | N-ethylsalicylamide | C(C)NC(C=1C(O)=CC=CC1)=O | C9H11NO2
